US07566721B2
5-(2-Phenylquinolin-7-yl)-thieno[2,3-d]pyrimidin-4-ylamine
From 7-(4-chlorothieno[2,3-d]pyrimidin-5-yl)-2-phenylquinoline: Gaseous NH3 was bubbled into a iPrOH (1 ml) solution of 7-(4-chlorothieno[2,3-d]pyrimidin-5-yl)-2-phenylquinoline (56 mg, max. 0.084 mmol) in a sealable tube, cooled to −78° C. in a dry ice/acetone bath, for 15 min. The sealed tube was equipped with a Teflon washer, sealed and heated at 110° C. for 8 h. After that time, the excess NH3 and the solvent were evaporated. The remaining material was purified by HPLC to give the title compound as an off-white solid.

reactant | 7-(4-chlorothieno[2,3-d]pyrimidin-5-yl)-2-phenylquinoline | ClC=1C2=C(N=CN1)SC=C2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C21H12ClN3S
reactant | NH3 | N | H3N
reactant | 7-(4-chlorothieno[2,3-d]pyrimidin-5-yl)-2-phenylquinoline | 0.084 mmol, 56 mg | ClC=1C2=C(N=CN1)SC=C2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C21H12ClN3S
solvent | iPrOH | 1 ml | CC(C)O | C3H8O
product | 5-(2-Phenylquinolin-7-yl)-thieno[2,3-d]pyrimidin-4-ylamine | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)C1=CSC=2N=CN=C(C21)N | C21H14N4S
